US08729264B2
tert-Butyl 1-methyl-1-hydroxyspiro[indane-3,4′-piperidine]-1′-carboxylate
tert-Butyl 1-oxospiro[indane-3,4′-piperidine]-1′-carboxylate (0.202 g, 0.671 mmol) was dissolved in THF (3 mL), 3 mmol/L methylmagnesium chloride-THF solution (0.450 mL, 1.34 mmol) was added under ice-cooling, and the mixture was stirred for 1 hr. Saturated aqueous ammonium chloride solution was added dropwise to the reaction mixture, and the mixture was extracted several times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to give the title compound (0.141 g, 66%).

reactant | tert-Butyl 1-oxospiro[indane-3,4′-piperidine]-1′-carboxylate | 0.671 mmol, 0.202 g | O=C1CC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C12 | C18H23NO3
reactant | methylmagnesium chloride THF | 1.34 mmol, 3 mmol/L, 0.450 mL | C[Mg]Cl.C1CCOC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-Butyl 1-methyl-1-hydroxyspiro[indane-3,4′-piperidine]-1′-carboxylate | 0.141 g, 66% | CC1(CC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C12)O | C19H27NO3
